US09212190B2
Into a 50-mL round-bottom flask, purged and maintained with an inert atmosphere of nitrogen, was placed a solution of 2-[(3R)-12-[[4-(morpholin-4-yl)cyclohexyl]oxy]-7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1(8),2(6),9,11-tetraen-3-yl]ethyl methanesulfonate (230 mg, 0.48 mmol, 1.00 equiv) in DMSO (5 mL) at room temperature. Then NaCN (141 mg, 2.88 mmol, 6.00 equiv) and 4-dimethylaminopyridine (5.86 mg, 0.05 mmol, 0.10 equiv) were added and the resulting solution was stirred for 2 h at 80° C. After cooling down to room temperature, the reaction was quenched with brine, extracted with DCM. The organic phase was dried over anhydrous sodium sulfate and concentrated under vacuum. The residue was purified by column chromatography on silica gel with EtOAc/petroleum ether (1:10 to 1:2) to afford the desired 3-[(3S)-12-[[4-(morpholin-4-yl)cyclohexyl]oxy]-7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1(8),2(6),9,11-tetraen-3-yl]propanenitrile (170 mg, 86%) as a white solid. LCMS (ES): m/z 413 [M+H]+.

reactant | 2-[(3R)-12-[[4-(morpholin-4-yl)cyclohexyl]oxy]-7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1(8),2(6),9,11-tetraen-3-yl]ethyl methanesulfonate | 0.48 mmol, 230 mg, 1.00 equiv | CS(=O)(=O)OCC[C@@H]1C=2C=3C(=NC=NC3SC2CC1)OC1CCC(CC1)N1CCOCC1 | C22H31N3O5S2
reactant | NaCN | 2.88 mmol, 141 mg, 6.00 equiv | [C-]#N.[Na+]
solvent | DMSO | 5 mL | CS(=O)C | C2H6OS
catalyst | 4-dimethylaminopyridine | 0.05 mmol, 5.86 mg, 0.10 equiv | CN(C1=CC=NC=C1)C | C7H10N2
product | 3-[(3S)-12-[[4-(morpholin-4-yl)cyclohexyl]oxy]-7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1(8),2(6),9,11-tetraen-3-yl]propanenitrile | 170 mg, 86% | N1(CCOCC1)C1CCC(CC1)OC1=NC=NC=2SC=3CC[C@@H](C3C12)CCC#N | C22H28N4O2S
